US05834494
6-Chloro-5-propyl-1-(3-pyridylcarbamoyl)indoline (E33)
6-Chloro-5-propylindoline (D54) (57 mg, 0.3 mmol) was treated with 3-pyridylisocyanate as in the procedure described in Example 1. The crude product was recrystallised from ethanol/diethyl ether to give the title compound as a white crystalline solid m.p. =218°-220° C.

reactant | 6-Chloro-5-propylindoline | 0.3 mmol, 57 mg | ClC1=C(C=C2CCNC2=C1)CCC | C11H14ClN
reactant | 3-pyridylisocyanate | N1=CC(=CC=C1)N=C=O | C6H4N2O
product | 6-Chloro-5-propyl-1-(3-pyridylcarbamoyl)indoline | ClC1=C(C=C2CCN(C2=C1)C(NC=1C=NC=CC1)=O)CCC | C17H18ClN3O
